US06156700
Preparation of 3-(6-Fluoro-3-methyl-1,2-benzisoxazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-(6-fluoro-3-methyl-1,2-benzisoxazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (3.00 g, 9.12 mmol) and potassium carbonate (2.52 g, 18.2 mmol) in N,N-dimethylformamide is stirred for 15 minutes, treated with methyl iodide (2.58 g, 18.2 mmol), stirred at room temperature overnight, and poured into an ice-water mixture. The resultant aqueous mixture is filtered to obtain a solid which is recrystallized from a methylene chloride/hexanes solution to give the title product as a white solid (mp 158-159° C.) which is identified by NMR spectral analyses.

reactant | 3-(6-fluoro-3-methyl-1,2-benzisoxazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 9.12 mmol, 3.00 g | FC1=CC2=C(C(=NO2)C)C=C1N1C(NC(=CC1=O)C(F)(F)F)=O | C13H7F4N3O3
reactant | potassium carbonate | 18.2 mmol, 2.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 18.2 mmol, 2.58 g | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(6-Fluoro-3-methyl-1,2-benzisoxazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | FC1=CC2=C(C(=NO2)C)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H9F4N3O3
